US06656938B2
A solution of tert-butyl 2-[2-(2-butyl-5-oxido-1H-imidazo[4,5-c]quinolin-1-yl)ethoxy]ethylcarbamate (3.68 g, 8.60 mmol) in 100 mL of 1,2-dichloroethane was heated to 80° C. and treated with 10 mL of concentrated NH4OH solution. To the rapidly stirred solution was added solid p-toluenesulfonyl chloride (1.87 g, 9.81 mmol) over a 10 min period. The reaction mixture was then sealed in a pressure vessel and heating was continued for 2 h. The reaction mixture was then cooled and treated with 100 mL of CH2Cl2. The reaction mixture was then washed with H2O, 1% Na2CO3 solution (3×) and brine. The organic portion was dried over Na2SO4 and concentrated to give 3.68 g of tert-butyl 2-[2-(4-amino-2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)ethoxy]ethylcarbamate as a light brown foam.

reactant | tert-butyl 2-[2-(2-butyl-5-oxido-1H-imidazo[4,5-c]quinolin-1-yl)ethoxy]ethylcarbamate | 8.60 mmol, 3.68 g | C(CCC)C=1N(C2=C(C=[N+](C=3C=CC=CC23)[O-])N1)CCOCCNC(OC(C)(C)C)=O | C23H32N4O4
reactant | NH4OH | 10 mL | [NH4+].[OH-]
reactant | p-toluenesulfonyl chloride | 9.81 mmol, 1.87 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
solvent | 1,2-dichloroethane | 100 mL | ClCCCl | C2H4Cl2
product | tert-butyl 2-[2-(4-amino-2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)ethoxy]ethylcarbamate | 3.68 g | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCOCCNC(OC(C)(C)C)=O)CCCC | C23H33N5O3
